US05525619
5-[4-(4,4,4-Trifluorobutoxy)phenyl]-3-methylthioethyl-1,3,4-oxadiazol-2(3H)-one
2 g of 5-[4-(4,4,4-trifluorobutoxy)phenyl]-1,3,4-oxadiazol-2(3H)-one, 1.14 g of 2-chloroethyl methyl sulphide, 2.4 g of potassium carbonate and 30 ml of dimethylformamide are introduced into a 50 ml three-necked round-bottomed flask. The reaction mixture is heated to 90° C. and is maintained at this temperature overnight, then poured into water. The precipitate formed is collected by filtration, washed with water and taken up in ethyl acetate. The solution is dried over sodium sulphate and the solvent is then evaporated off. After recrystallization in diisopropyl ether, 1.7 g of product are obtained.

reactant | 5-[4-(4,4,4-trifluorobutoxy)phenyl]-1,3,4-oxadiazol-2(3H)-one | 2 g | FC(CCCOC1=CC=C(C=C1)C1=NNC(O1)=O)(F)F | C12H11F3N2O3
reactant | 2-chloroethyl methyl sulphide | 1.14 g | CSCCCl | C3H7ClS
reactant | potassium carbonate | 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-[4-(4,4,4-Trifluorobutoxy)phenyl]-3-methylthioethyl-1,3,4-oxadiazol-2(3H)-one | 1.7 g | FC(CCCOC1=CC=C(C=C1)C1=NN(C(O1)=O)CCSC)(F)F | C15H17F3N2O3S
